US05763359
8. Preparation of 5-Chloro-1-ethyl-3-(trifluoromethyl)pyrazole-4-carboxaldehyde
Dimethylformamide (13.36 g 182.7 mmol) was cooled to about 0° C. and 60.69 g (395.8 mmol) of phosphoryl chloride was added dropwise with stirring to form a pink slurry. This was allowed to warm to ambient temperature and then 32.92 g (182.7 mmol) of 1-ethyl-5-hydroxy-3-(trifluoromethyl)pyrazole was added dropwise with stirring to it. There appeared to be an endotherm and the mixture became dark brown to black. The mixture was then heated at reflux (108° C.) overnight and, after cooling, was poured into an ice-water mixture with stirring. A precipitate formed and then dissolved. The solution was extracted with dichloromethane (3×150 mL) and the combined extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure to obtain the title compound as a dark brown to black oil.

reactant | Dimethylformamide | 182.7 mmol, 13.36 g | CN(C=O)C | C3H7NO
reactant | phosphoryl chloride | 395.8 mmol, 60.69 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-ethyl-5-hydroxy-3-(trifluoromethyl)pyrazole | 182.7 mmol, 32.92 g | C(C)N1N=C(C=C1O)C(F)(F)F | C6H7F3N2O
product | 5-Chloro-1-ethyl-3-(trifluoromethyl)pyrazole-4-carboxaldehyde | ClC1=C(C(=NN1CC)C(F)(F)F)C=O | C7H6ClF3N2O
